US06972340B2
2,6-dihydroxy-N,N-dimethylbenzamide
To a mixture of 2,6-dimethoxy-N,N-dimethylbenzamide (64 mg, 0.3 mmol) dissolved in dichloromethane (2 mL) was added 1M BBr3 in dichloromethane (1 mL, 1.0 mmol)) under nitrogen atmosphere and stirred for 16 hours. The mixture was diluted with ethyl acetate and the mixture was washed with water (2×30 mL) and brine (2×30 mL). The organic phase was dried (MgSO4), filtered and concentrated under reduced pressure to provide titled compound (20 mg). MS ESI(−)) m/e 180 (M−H)+; 1H NMR (300 MHz, DMSO-d6) 9.36 (s, 2H), 6.92 (t, 1H), 6.30 (d, 2H), 2.97-2.73 (m, 6H).

reactant | 2,6-dimethoxy-N,N-dimethylbenzamide | 0.3 mmol, 64 mg | COC1=C(C(=O)N(C)C)C(=CC=C1)OC | C11H15NO3
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1.0 mmol, 1 mL | ClCCl | CH2Cl2
product | 2,6-dihydroxy-N,N-dimethylbenzamide | 20 mg | OC1=C(C(=O)N(C)C)C(=CC=C1)O | C9H11NO3
